*Xyce Common Source Circuit
.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" tt

***************
** Parameters
***************
.param width=1.0
.param length=1.0

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W=width L=length
R1 d vdd 1000

V1 g 0 1
VDD vdd 0 1.8

********
** data
********
.data device_data
+ width length
+ 1.26 0.15
+ 1.68 0.15
+ 1.0 1.0
.enddata

*****************
** Analysic
*****************
.DC v1 0 1.8 0.1
.STEP DATA=device_data
.print DC FORMAT=CSV {-i(vdd)}

.end
