*Ngspice Common Source Circuit
.lib "../../Models/libs.tech/ngspice/sky130.lib.spice" tt

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W=1.68 L=.15
R1 d vdd 1000

V1 g 0 1
VDD vdd 0 1.8


*****************
** Analysic
*****************
.control
set appendwrite
compose width_vector  values 1.26 1.68 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 2.0 3.0 3.0 3.0 3.0 3.0 3.0 3.0 3.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 7.0 7.0 7.0 7.0 7.0 7.0 7.0 7.0 0.42 0.42 0.42 0.42 0.42 0.42 0.42 0.42 0.55 0.55 0.55 0.55 0.55 0.55 0.64 0.84 0.74 0.36 0.39 0.52 0.54 0.58 0.6 0.61 0.65 0.65 0.65 0.65
compose length_vector values 0.15 0.15 1.0 2.0 4.0 8.0 0.15 0.18 0.25 0.5 0.15 1.0 2.0 4.0 8.0 0.15 0.18 0.25 0.5 1.0 2.0 4.0 8.0 0.15 0.18 0.25 0.5 1.0 2.0 4.0 8.0 0.15 0.18 0.25 0.5 1.0 20.0 2.0 4.0 8.0 0.15 0.18 0.5 1.0 2.0 4.0 8.0 0.15 0.5 0.15 0.15 0.15 0.15 0.15 0.15 0.15 0.15 0.15 0.15 0.15 0.18 0.25 0.5

shell  rm -rf ./ngspice_results/sky130_fd_pr__nfet_01v8_tt_ngspice.csv

let i = 0
while i < length(width_vector)
    reset
    alter @m.x1.msky130_fd_pr__nfet_01v8[L] = length_vector[i]
    alter @m.x1.msky130_fd_pr__nfet_01v8[W] = width_vector[i]
    
    DC v1 0 1.8 0.1
    wrdata ./ngspice_results/sky130_fd_pr__nfet_01v8_tt_ngspice.csv  -I(vdd)
    
    
    let i = i + 1
end
.endc
.end
