*Xyce Common Source Circuit
.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" tt

***************
** Parameters
***************
.param width=1.68
.param length=0.15

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W=width L=length
R1 d vdd 1000

V1 g 0 1
VDD vdd 0 1.8

********
** data
********
.data device_data
+ width length
+ 1.26 0.15
+ 1.68 0.15
+ 1.0 1.0
+ 1.0 2.0
+ 1.0 4.0
+ 1.0 8.0
+ 1.0 0.15
+ 1.0 0.18
+ 1.0 0.25
+ 1.0 0.5
+ 2.0 0.15
+ 3.0 1.0
+ 3.0 2.0
+ 3.0 4.0
+ 3.0 8.0
+ 3.0 0.15
+ 3.0 0.18
+ 3.0 0.25
+ 3.0 0.5
+ 5.0 1.0
+ 5.0 2.0
+ 5.0 4.0
+ 5.0 8.0
+ 5.0 0.15
+ 5.0 0.18
+ 5.0 0.25
+ 5.0 0.5
+ 7.0 1.0
+ 7.0 2.0
+ 7.0 4.0
+ 7.0 8.0
+ 7.0 0.15
+ 7.0 0.18
+ 7.0 0.25
+ 7.0 0.5
+ 0.42 1.0
+ 0.42 20.0
+ 0.42 2.0
+ 0.42 4.0
+ 0.42 8.0
+ 0.42 0.15
+ 0.42 0.18
+ 0.42 0.5
+ 0.55 1.0
+ 0.55 2.0
+ 0.55 4.0
+ 0.55 8.0
+ 0.55 0.15
+ 0.55 0.5
+ 0.64 0.15
+ 0.84 0.15
+ 0.74 0.15
+ 0.36 0.15
+ 0.39 0.15
+ 0.52 0.15
+ 0.54 0.15
+ 0.58 0.15
+ 0.6 0.15
+ 0.61 0.15
+ 0.65 0.15
+ 0.65 0.18
+ 0.65 0.25
+ 0.65 0.5
.enddata

*****************
** Analysic
*****************
.DC v1 0 1.8 0.1
.STEP DATA=device_data
.print DC FILE=./xyce_results/sky130_fd_pr__nfet_01v8_tt_xyce.csv FORMAT=CSV {-i(vdd)}

.end
