*Xyce Common Source Circuit
.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" tt

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W=1.26 L=0.15
R1 d vdd 1000

V1 g 0 1 AC 1
VDD vdd 0 1.8



*****************
** Analysic
*****************
.AC DEC 10 1 1000G
.print AC FILE=./xyce_results/sky130_fd_pr__nfet_01v8_W_1.26_L_0.15_tt_ac_xyce.csv FORMAT=CSV {vdb(d)}

.end
